US05559232
18.4 g of N,N'-disuccinimidyl carbonate are added in small portions at 5° C. within 5 minutes to a solution of 6.4 g of benzylamine in 150 ml of acetonitrile. The reaction mixture is stirred at room temperature and then evaporated. The residue is taken up in ethyl acetate and washed with water. The organic phase is dried, concentrated and the residue is recrystallized from methylene chlorideohexane. 11.3 g of colourless 2,5-dioxo-pyrrolidin-1-yl benzylcarbamate, MS (FAB): 133 (M- HO-Succ), are isolated.

reactant | N,N'-disuccinimidyl carbonate | 18.4 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | benzylamine | 6.4 g | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2,5-dioxo-pyrrolidin-1-yl benzylcarbamate | 11.3 g | C(C1=CC=CC=C1)NC(ON1C(CCC1=O)=O)=O | C12H12N2O4
